US08957070B2
N-Methyl-N-[2-(2-methyl-1,3-thiazol-4-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixed solution of N-[2-(2-chloroacetyl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide (570 mg), thioacetamide (0.20 g) and N,N-dimethylacetamide (15 ml) was stirred at 80° C. for 2 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:9-4:6), the obtained crude product was purified by preparative HPLC, and the obtained oil was crystallized from ethyl acetate-hexane to give the title compound (64 mg, yield 11%) as colorless needle crystals. melting point 161-162° C. MS:390 (MH+).

reactant | N-[2-(2-chloroacetyl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 570 mg | ClCC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C15H13ClN2O3S2
reactant | thioacetamide | 0.20 g | C(C)(=S)N | C2H5NS
reactant | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methyl-N-[2-(2-methyl-1,3-thiazol-4-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 64 mg, yield 11% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1N=C(SC1)C | C17H15N3O2S3
